US07781599B2
2,4-Diphenylpentane
A mixture of phenyl magnesium bromide (1.25 mL of 0.96 M THF solution, 1.2 mmol) and TMEDA (181.1 μL, 1.2 mmol) was added to a solution of 2,4-dichloropentane (70.5 mg, 0.5 mmol) and FeCl3 (0.5 mL of 0.1 M THF solution, 0.05 mmol) in THF (0.5 mL) at 50° C. over an hour through a syringe pump. The resulting mixture was stirred at the temperature for 20 minutes and saturated ammonium chloride aqueous solution was added thereto to terminate the reaction, followed by diluting with 3 mL of ethyl acetate. The dilution was filtered through a packed silica gel (eluent: ethyl acetate) followed by concentration under reduced pressure. 1H NMR analysis indicates that the desired product was obtained in almost quantitative yield. Purification by recycling GPC gave the pure compound in a yield of 71%.

reactant | phenyl magnesium bromide | 1.2 mmol, 0.96 M, 1.25 mL | C1(=CC=CC=C1)[Mg]Br
reactant | TMEDA | 1.2 mmol, 181.1 μL | CN(C)CCN(C)C | C6H16N2
reactant | 2,4-dichloropentane | 0.5 mmol, 70.5 mg | ClC(C)CC(C)Cl | C5H10Cl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2,4-Diphenylpentane | quantitative yield | C1(=CC=CC=C1)C(C)CC(C)C1=CC=CC=C1 | C17H20
